US06350751B1
N-[3-carbamoyl-5-ethyl-1-(2-Pyridylmethyl)-1H-pyrazol-4-yl]-2-ethoxy-5-(4-ethyl-1-piperazinylsulfonyl)nicotinamide
2-Ethoxy-5-(4-ethyl-1-piperazinylsulfonyl)nicotinic acid (0.875 Kg, 2.55 mol) was charged followed by ethyl acetate (7L, 8 ml/g) to the reaction vessel and 2 ml/g was distilled off at atmospheric pressure to ensure the reaction system was dry. The slurry was cooled to room temperature under a nitrogen atmosphere and carbonyldiimidazole (0.43 Kg, 2.65 mol) added in one portion. The slurry was heated to 35° C. and held for half an hour. The reaction was further heated to 45-50° C. and held for a further half hour. The reaction was then heated to reflux, stirring at reflux for one hour. On confirmation of complete imidazolide formation the reaction was cooled to 45-50° C. under nitrogen and 4-amino-5-ethyl-1-(2-pyridylmethyl)-1H-pyrazole-3-carboxamide (0.59 Kg, 2.42 mol) charged in one portion before returning to reflux and a further 1 ml/g was distilled off at atmospheric pressure. The reaction was stirred at reflux for 16 hours with crystallisation of product occurring after 4 hours. The reaction was cooled to 10-15° C. and granulated for one hour. The reaction slurry was filtered and washed (ethyl acetate) which was dried under vacuum at 50° C. to afford the title compound (1.252 Kg, 90.7%) as a white solid. Mpt 178-179° C. ? (CDCl3): 1.04 (3H, t), 1.06 (3H, t), 1.59 (3H, t), 240 (2H, q), 2.50 (4H, q), 2.90 (4H, q), 3.08 (4H, m), 2.78 (2H, q), 5.35 (1H, s) 5.48 (2H, s), 6.68 (1H, s), 6.92 (1H, d), 7.22 (IH, m), 7.65 (1H, m), 8.58 (1H, d), 8.64 (1H, d), 8.83 (1H, d). m/z (Found:571 [M+H]+, 100%. C26H34N8O5S requires 571.67).

reactant | 2-Ethoxy-5-(4-ethyl-1-piperazinylsulfonyl)nicotinic acid | 2.55 mol, 0.875 Kg | C(C)OC1=C(C(=O)O)C=C(C=N1)S(=O)(=O)N1CCN(CC1)CC | C14H21N3O5S
reactant | carbonyldiimidazole | 2.65 mol, 0.43 Kg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | imidazolide | [N-]1C=NC=C1
reactant | 4-amino-5-ethyl-1-(2-pyridylmethyl)-1H-pyrazole-3-carboxamide | 2.42 mol, 0.59 Kg | NC=1C(=NN(C1CC)CC1=NC=CC=C1)C(=O)N | C12H15N5O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[3-carbamoyl-5-ethyl-1-(2-Pyridylmethyl)-1H-pyrazol-4-yl]-2-ethoxy-5-(4-ethyl-1-piperazinylsulfonyl)nicotinamide | 1.252 Kg, 90.7% | C(N)(=O)C1=NN(C(=C1NC(C1=C(N=CC(=C1)S(=O)(=O)N1CCN(CC1)CC)OCC)=O)CC)CC1=NC=CC=C1 | C26H34N8O5S
